US07754745B2
Step 2: 5-Methyl-3-(2-{(3S)-3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazol-5-yl)-1,2,4-oxadiazole
To a suspension of N′-hydroxy-2-{(3S)-3-[2-(trifluoromethyl)phenoxy]-pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide (410 mg, 1.1 mmol) in EtOH (3 mL) and EtOAc (5 mL) was added NaOEt (1.7 mL, 4.4 mmol, 25 wt. %) at rt. The mixture was heated at 80° C. for 30 min. After cooling to rt, the mixture was diluted with water and extracted with EtOAc. The EtOAc extract was washed with water, dried (Na2SO4) and concentrated. Combi-Flash chromatography (10 g, 50-100% EtOAc in hexanes in 20 min, 35 mL/min, 15 mL/fraction) gave the title compound after trituration with Et2O-hexanes (1:1). 1H NMR (400 MHz, acetone-d6): δ 7.81 (s, 1 H), 7.71-7.65 (m, 2 H), 7.41 (d, 1 H), 7.17 (t, 1 H), 5.52 (s, 1 H), 3.98 (m, 1 H), 3.84-3.67 (m, 3 H), 2.61 (s, 3H), 2.60-2.43 (m, 2 H). MS (+ESI) m/z 397 (MH+).

reactant | N′-hydroxy-2-{(3S)-3-[2-(trifluoromethyl)phenoxy]-pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide | 1.1 mmol, 410 mg | ON=C(N)C1=CN=C(S1)N1C[C@H](CC1)OC1=C(C=CC=C1)C(F)(F)F | C15H15F3N4O2S
reactant | NaOEt | 4.4 mmol, 1.7 mL | CC[O-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-Methyl-3-(2-{(3S)-3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazol-5-yl)-1,2,4-oxadiazole | CC1=NC(=NO1)C1=CN=C(S1)N1C[C@H](CC1)OC1=C(C=CC=C1)C(F)(F)F | C17H15F3N4O2S
